US07132215B2
In 80 ml of toluene were dissolved 12.5 g of 2-(7-oxanorbornan-2-yl)-2-propanol, 12.1 g of triethylamine, and 0.4 g of 4-(N,N-dimethylamino)pyridine. Then 9.1 g of acrylic chloride was added to the solution at 50° C., which was stirred at the temperature for one hour. Water, 50 ml, was added to the solution below 30° C., followed by ordinary post-treatment. Vacuum distillation yielded 13.8 g of 2-(7-oxanorbornan-2-yl)-2-propyl acrylate. The two-step yield was 82%.

reactant | 2-(7-oxanorbornan-2-yl)-2-propanol | 12.5 g | C12C(CC(CC1)O2)C(C)(C)O | C9H16O2
reactant | triethylamine | 12.1 g | C(C)N(CC)CC | C6H15N
reactant | acrylic chloride | 9.1 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(N,N-dimethylamino)pyridine | 0.4 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-(7-oxanorbornan-2-yl)-2-propyl acrylate | 13.8 g, yield was 82% | C(C=C)(=O)OC(C)(C)C1C2CCC(C1)O2 | C12H18O3
